US08242134B2
4-[1-Ethoxy-eth-(E)-ylidene]-8-fluoro-isochroman-1,3-dione
A suspension of 8-fluoro-isochroman-1,3-dione (7.125 g, 39.55 mmol) and triethyl orthoacetate (50.0 mL, 273 mmol) was heated to a gentle reflux during 5 min and reflux continued for 10 min. It was allowed to cool to r.t. with formation of crystalline product. It was cooled further on dry ice-EtOH bath, filtered, washed with cold ethanol (3×15 ml) and dried in vacuo (50° C., 30 min) to give 4.600 g of the title compound as a pink solid. The supernatant was evaporated and the purple oil residue was quenched with ethanol (20 ml) with formation of crystalline product, separated by filtration to give 693 mg more of the title product, total yield 53.5%. LC-MS (m/z) 251.2 (MH+), tR=1.05. 1H NMR (500 MHz, DMSO-d6): 1.41 (t, J=7.0 Hz, 3H, Me of Et), 2.68 (s, 3H, Me), 4.46 (q, J=7.0 Hz, 2H, CH2 of Et), 7.21 (dd, J=8.5 Hz, 10.7 Hz, 1H, C (7)-H), 7.72 (dt, J (d)=5.9 Hz, J (t)=8.3 Hz, 1H, C (6)-H), 8.08 (d, J=8.3 Hz, 1H, C (5)-H). 19F NMR (470.59 MHz): −110.2 ppm (dd, J=5.9 Hz, 10.7 Hz). 13C APT (125.76 MHz, DMSO-d6=39.89 ppm): 14.8 (CH3 of Et), 17.97 (CH3), 66.79 (CH2), 99.71 (C4), 109.04 (d, J=7.9 Hz, C9), 114.04 (d, J=20.6 Hz, CH, C7), 123.43 (d, J=3.3 Hz, CH, C5), 136.28 (d, J=10.5 Hz, CH, C6), 137.43 (s, C3=O), 157.22 (d, J=4.3 Hz, C1=O), 161.77 (C), 162.19 (d, J=262 Hz, C8), 178.45 (═C—OEt).

reactant | 8-fluoro-isochroman-1,3-dione | 39.55 mmol, 7.125 g | FC=1C=CC=C2CC(OC(C12)=O)=O | C9H5FO3
reactant | triethyl orthoacetate | 273 mmol, 50.0 mL | C(C)(OCC)(OCC)OCC | C8H18O3
product | 4-[1-Ethoxy-eth-(E)-ylidene]-8-fluoro-isochroman-1,3-dione | 4.600 g, yield 53.5% | C(C)O\C(\C)=C/1\C(OC(C2=C(C=CC=C12)F)=O)=O | C13H11FO4
